US04548932
To a solution of tert-butyl 3(S)-[7-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.35 g) in acetic acid (1.5 ml) is added 30% hydrogen bromide-acetic acid solution (1.5 ml). The resulting mixture is allowed to stand for 0.5 hour at room temperature and then diluted with ethyl ether (100 ml). The supernatant layer is removed by decantation and the precipitate is dissolved in 1N sodium hydroxide solution (10 ml). The solution is allowed to stand for 30 minutes at room temperature. After addition of acetic acid (2 ml), the mixture is chromatographed on MCI gel using water-methanol (1:1) as an eluent. The eluate is concentrated in vacuo and lyophilized to give 3(S)-[1(S)-carboxy-7-(4-piperidyl)heptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid (0.15 g) as colorless powder.

reactant | tert-butyl 3(S)-[7-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.35 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C38H53N3O8
reactant | hydrogen bromide acetic acid | 1.5 ml | Br.C(C)(=O)O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3(S)-[1(S)-carboxy-7-(4-piperidyl)heptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid | 0.15 g | C(=O)(O)[C@H](CCCCCCC1CCNCC1)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C24H35N3O6
